US09260427B2
Prepared using General Procedure 7. A solution of (S)-methyl 3-amino-4-(4-hydroxyphenyl)butanoate hydrochloride (2.1 g, 8.7 mmol), 4-(tert-butyl)benzoic acid (1.6 g, 9.0 mmol) and DIEA (3.5 ml, 18.8 mmol) in DMF (20 mL) and DCM (20 mL) was treated with HATU (3.3 g, 8.5 mmol). After 1 h, the mixture was poured onto 1M HCl (100 mL) and extracted with EA (3×50 mL). The combined organic extracts were washed successively with 1M HCl (50 mL), water (50 mL) and brine (20 mL), then dried over MgSO4 and concentrated. The resulting residue was purified by chromatography (EA/hexane) to provide 2.3 g (72%) of (S)-methyl 3-(4-(tert-butyl)benzamido)-4-(4-hydroxyphenyl)butanoate as white needles. LCMS-ESI (m/z) calculated for C22H27NO: 369.4. found 370.0 [M+H]+, tR=2.52 min (Method 6).

reactant | (S)-methyl 3-amino-4-(4-hydroxyphenyl)butanoate hydrochloride | 8.7 mmol, 2.1 g | Cl.N[C@H](CC(=O)OC)CC1=CC=C(C=C1)O
reactant | 4-(tert-butyl)benzoic acid | 9.0 mmol, 1.6 g | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | DIEA | 18.8 mmol, 3.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 8.5 mmol, 3.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | 1M, 100 mL | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 3-(4-(tert-butyl)benzamido)-4-(4-hydroxyphenyl)butanoate | 2.3 g, 72% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](CC(=O)OC)CC2=CC=C(C=C2)O)C=C1 | C22H27NO4
